US09381253B2
Compound b2 may be prepared according to reported methods (see, e.g., Gumbley, P.; Koylu, D.; Thomas, S. W. Macromolecules 2011, 44, 7956). 1-Bromo-3-chloropropane (0.650 mL, 0.00658 moles) was added to a solution of 5-hydroxy-2-nitrobenzaldehyde (1.0 g, 0.00598 moles), and potassium carbonate (1.66 g, 0.0120 moles) in anhydrous DMF (6 mL). The solution was stirred at 40° C. for 24 hours. The reaction was diluted with ethyl acetate (75 mL) and washed with saturated sodium bicarbonate solution (75 mL), water (75 mL), and brine (75 mL). The organic layer was dried with anhydrous magnesium sulfate, which was removed by filtration. The filtrate was concentrated, and the resulting residue was subject to silica gel chromatography using a gradient of 100% hexanes to 50% ethyl acetate in hexanes. The fractions containing the product were collected, and volatiles were removed by rotary evaporation. The resulting residue was dried overnight to yield 5-(3-chloropropoxy)-2-nitrobenzaldehyde as a bright-green yellow solid (yield 87%*). 1H NMR (400 MHz, CD2Cl2) δ 10.42 (s, 1H), 8.15 (d, J=9.1 Hz, 1H), 7.32 (d, J=2.9 Hz, 1H), 7.18 (dd, J=9.0, 2.9 Hz, 1H), 4.27 (t, J=5.9 Hz, 2H), 3.76 (t, J=6.3 Hz, 2H), 2.35-2.24 (m, 2H). 13C-NMR (100 MHz, CD2Cl2) δ 189.05, 163.84, 135.04, 127.84, 119.16, 114.57, 66.28, 41.74, 32.35 HRMS m/z: calculated for C10H10ClNO4 [M+H]+, 244.0371. found, 244.0366.

reactant | 1-Bromo-3-chloropropane | 0.00658 moles, 0.650 mL | BrCCCCl | C3H6BrCl
reactant | 5-hydroxy-2-nitrobenzaldehyde | 0.00598 moles, 1.0 g | OC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C7H5NO4
reactant | potassium carbonate | 0.0120 moles, 1.66 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
product | 5-(3-chloropropoxy)-2-nitrobenzaldehyde | yield 87% | ClCCCOC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C10H10ClNO4
